US05646308
A mixture of 0.41 g of ethyl 6-amino-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxylate hydrochloride, 0.13 g of sulfuric acid, 0.10 g of sodium nitrite and 12 ml of H2O was stirred under ice-cooling for 1 hour. The reaction mixture was added dropwise to a mixture of 0.30 g of cuprous chloride and 10 ml of concentrated HCl under ice-cooling, then the mixture was stirred at room temperature for 3 hours followed by 3 hours at 70° C. with heating. Added 2N HCl to the reaction mixture and extracted with ethyl acetate. The resultant organic layer was washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. To the residue thus obtained added a mixture of 50 ml of ethyl alcohol and 2 ml of sulfuric acid and refluxed with heating for 2 hours. The reaction mixture was concentrated in vacuo to half a volume, added water to the residue and extracted with methylene chloride. The resultant organic layer was washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The residue thus obtained was purified with silica gel column chromatography (developing solution, ethyl acetate:hexane=1:10) to obtain 0.07 g of ethyl 6-chloro-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxylate with a melting point of 76°-78° C.

reactant | ethyl 6-amino-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxylate hydrochloride | 0.41 g | Cl.NC=1C=CC2=C(C(=CC(O2)(CF)CF)C(=O)OCC)C1
reactant | sulfuric acid | 0.13 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.10 g | N(=O)[O-].[Na+]
reactant | HCl | 10 ml | Cl | ClH
reactant | HCl | 2N | Cl | ClH
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
solvent | H2O | 12 ml | O | H2O
product | ethyl 6-chloro-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxylate | 0.07 g | ClC=1C=CC2=C(C(=CC(O2)(CF)CF)C(=O)OCC)C1 | C14H13ClF2O3
